US08975398B2
N-{4-[1-(2-methylpropyl)-1H-pyrazol-4-yl]phenyl}-1-(pyridazin-4-yl)azetidine-3-carboxamide
The title compound was prepared as described in Example 1C, substituting 4-bromopyridazine for 3-bromopyridine and N-(4-(1-isobutyl-1H-pyrazol-4-yl)phenyl)azetidine-3-carboxamide for tert-butyl 4-(4-(azetidine-3-carboxamido)phenoxy)piperidine-1-carboxylate. 1H NMR (300 MHz, DMSO-d6) δ ppm 10.10 (s, 1H), 8.61 (d, J=6.0 Hz, 1H), 8.51 (d, J=3.0 Hz, 1H), 8.08 (s, 1H), 7.81 (s, 1H), 7.64-7.56 (m, 2H), 7.55-7.48 (m, 2H), 6.55 (dd, J=6.0, 3.0 Hz, 1H), 4.31-3.96 (m, 4H), 3.91 (d, J=7.1 Hz, 2H), 3.74 (s, 1H), 2.12 (dd, J=13.3, 6.5 Hz, 1H), 0.86 (d, J=6.7 Hz, 6H); MS (ESI(+)) m/e 377 (M+H)+.

reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
reactant | N-(4-(1-isobutyl-1H-pyrazol-4-yl)phenyl)azetidine-3-carboxamide | C(C(C)C)N1N=CC(=C1)C1=CC=C(C=C1)NC(=O)C1CNC1 | C17H22N4O
reactant | tert-butyl 4-(4-(azetidine-3-carboxamido)phenoxy)piperidine-1-carboxylate | N1CC(C1)C(=O)NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C20H29N3O4
product | N-{4-[1-(2-methylpropyl)-1H-pyrazol-4-yl]phenyl}-1-(pyridazin-4-yl)azetidine-3-carboxamide | CC(CN1N=CC(=C1)C1=CC=C(C=C1)NC(=O)C1CN(C1)C1=CN=NC=C1)C | C21H24N6O
